US04691059
A mixture of 30 g of 1,1,1-tris(hydroxymethyl)ethane (Aldrich Chemical Co., Milwaukee, WI), 85 ml of acetone and 80 ml of petroleum ether (b.p. 30°-75° C.) was acidified with 1.0 g of p-toluenesulfonic acid monohydrate and this mixture was refluxed for 24 hours with removal of water by azeotropic distillation. This was followed by neutralization with 1 g of sodium acetate and complete drying with anhydrous sodium sulfate. The liquid was filtered and the solvents removed under reduced pressure. The residue was distilled under vacuum to give 5-hydroxymethyl-2,2,5-trimethyl-1,3-dioxane in 90% yield.

reactant | 1,1,1-tris(hydroxymethyl)ethane | 30 g | OCC(C)(CO)CO | C5H12O3
reactant | acetone | 85 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-hydroxymethyl-2,2,5-trimethyl-1,3-dioxane | 90% yield | OCC1(COC(OC1)(C)C)C | C8H16O3
